US08134001B2
In a manner similar to the method described in example 1d, 5-iodo-2-(1,3,5-trimethyl-1H-pyrazol-4-yloxy)-benzaldehyde (8.1 g, 23 mmol) was reacted with 1,1,1,3,3,3-hexamethyldisilazane (4.7 mL, 23 mmol), n-butyllithium (2.5 M, 9.1 mL, 23 mmol), trimethylsilyl chloride (2.9 mL, 23 mmol), triethylamine (4.1 mL, 30 mmol) and acetyl chloride (2.1 mL, 30 mmol) to give crude 1-[5-iodo-2-(1,3,5-trimethyl-1H-pyrazol-4-yloxy)-phenyl]-3-trimethylsilyoxy-2-aza-1,3-butadiene as a yellow gum and used for the next step without further purification.

reactant | 5-iodo-2-(1,3,5-trimethyl-1H-pyrazol-4-yloxy)-benzaldehyde | 23 mmol, 8.1 g | IC=1C=CC(=C(C=O)C1)OC=1C(=NN(C1C)C)C | C13H13IN2O2
reactant | 1,1,1,3,3,3-hexamethyldisilazane | 23 mmol, 4.7 mL | C[Si](N[Si](C)(C)C)(C)C | C6H19NSi2
reactant | n-butyllithium | 23 mmol, 2.5 M, 9.1 mL | C(CCC)[Li]
reactant | trimethylsilyl chloride | 23 mmol, 2.9 mL | C[Si](C)(C)Cl | C3H9ClSi
reactant | triethylamine | 30 mmol, 4.1 mL | C(C)N(CC)CC | C6H15N
reactant | acetyl chloride | 30 mmol, 2.1 mL | C(C)(=O)Cl | C2H3ClO
product | 1-[5-iodo-2-(1,3,5-trimethyl-1H-pyrazol-4-yloxy)-phenyl]-3-trimethylsilyoxy-2-aza-1,3-butadiene | IC=1C=CC(=C(C1)C=NC(=C)O[Si](C)(C)C)OC=1C(=NN(C1C)C)C | C18H24IN3O2Si
